* LPFLOW_LSBUF_LH_HL_ISOWELL_TAPD4 : abstract conversion of sky130_fd_sc_hd__lpflow_lsbuf_lh_hl_isowell_tap_4
* 48 abstract devices (width -> parallel min-width fingers) ; secondary power ['VPWRIN'] collapsed onto VPWR
.subckt LPFLOW_LSBUF_LH_HL_ISOWELL_TAPD4 A VGND VPWR X
XLPFLOW_LSBUF_LH_HL_ISOWELL_TAPD4B A VGND VPWR VPWR VPWR X LPFLOW_LSBUF_LH_HL_ISOWELL_TAPD4B
.ends LPFLOW_LSBUF_LH_HL_ISOWELL_TAPD4

.subckt LPFLOW_LSBUF_LH_HL_ISOWELL_TAPD4B A VGND VPB VPWRIN VPWR X
X0 X a_1032_911# VGND VGND abnmos
X1 X a_1032_911# VGND VGND abnmos
X2 X a_1032_911# VPWR VPB abpmos
X3 X a_1032_911# VPWR VPB abpmos
X4 X a_1032_911# VPWR VPB abpmos
X5 X a_1032_911# VPWR VPB abpmos
X6 X a_1032_911# VPWR VPB abpmos
X7 X a_1032_911# VPWR VPB abpmos
X8 X a_1032_911# VGND VGND abnmos
X9 X a_1032_911# VGND VGND abnmos
X10 a_714_47# a_620_911# VPWR VPB abpmos
X11 a_714_47# a_620_911# VPWR VPB abpmos
X12 a_620_911# a_505_297# VGND VGND abnmos
X13 a_620_911# a_505_297# VGND VGND abnmos
X14 a_620_911# a_505_297# VGND VGND abnmos
X15 a_620_911# a_505_297# VGND VGND abnmos
X16 X a_1032_911# VPWR VPB abpmos
X17 X a_1032_911# VPWR VPB abpmos
X18 X a_1032_911# VPWR VPB abpmos
X19 a_714_47# A VGND VGND abnmos
X20 a_714_47# A VGND VGND abnmos
X21 VPWRIN A a_505_297# VPWRIN abpmos
X22 VPWRIN A a_505_297# VPWRIN abpmos
X23 VPWRIN A a_505_297# VPWRIN abpmos
X24 a_714_47# A VGND VGND abnmos
X25 a_714_47# A VGND VGND abnmos
X26 X a_1032_911# VPWR VPB abpmos
X27 X a_1032_911# VPWR VPB abpmos
X28 X a_1032_911# VPWR VPB abpmos
X29 a_1032_911# a_620_911# VPWR VPB abpmos
X30 a_1032_911# a_620_911# VPWR VPB abpmos
X31 X a_1032_911# VGND VGND abnmos
X32 X a_1032_911# VGND VGND abnmos
X33 a_620_911# a_505_297# VGND VGND abnmos
X34 a_620_911# a_505_297# VGND VGND abnmos
X35 X a_1032_911# VGND VGND abnmos
X36 X a_1032_911# VGND VGND abnmos
X37 a_620_911# a_505_297# VGND VGND abnmos
X38 a_620_911# a_505_297# VGND VGND abnmos
X39 a_714_47# A VGND VGND abnmos
X40 a_714_47# A VGND VGND abnmos
X41 a_714_47# A VGND VGND abnmos
X42 a_714_47# A VGND VGND abnmos
X43 a_1032_911# a_620_911# VGND VGND abnmos
X44 a_1032_911# a_620_911# VGND VGND abnmos
X45 a_620_911# a_714_47# VPWR VPB abpmos
X46 a_620_911# a_714_47# VPWR VPB abpmos
X47 a_505_297# A VGND VGND abnmos
.ends LPFLOW_LSBUF_LH_HL_ISOWELL_TAPD4B
