* LPFLOW_LSBUF_LH_ISOWELLD4 : abstract conversion of sky130_fd_sc_hd__lpflow_lsbuf_lh_isowell_4
* 48 abstract devices (width -> parallel min-width fingers) ; secondary power ['LOWLVPWR'] collapsed onto VPWR
.subckt LPFLOW_LSBUF_LH_ISOWELLD4 A VGND VPWR X
XLPFLOW_LSBUF_LH_ISOWELLD4B A VPWR VGND VGND VPWR VPWR X LPFLOW_LSBUF_LH_ISOWELLD4B
.ends LPFLOW_LSBUF_LH_ISOWELLD4

.subckt LPFLOW_LSBUF_LH_ISOWELLD4B A LOWLVPWR VGND VNB VPB VPWR X
X0 a_424_82# a_1032_911# X VNB abnmos
X1 a_424_82# a_1032_911# X VNB abnmos
X2 X a_1032_911# VPWR VPB abpmos
X3 X a_1032_911# VPWR VPB abpmos
X4 X a_1032_911# VPWR VPB abpmos
X5 X a_1032_911# VPWR VPB abpmos
X6 X a_1032_911# VPWR VPB abpmos
X7 X a_1032_911# VPWR VPB abpmos
X8 X a_1032_911# a_424_82# VNB abnmos
X9 X a_1032_911# a_424_82# VNB abnmos
X10 a_714_47# a_620_911# VPWR VPB abpmos
X11 a_714_47# a_620_911# VPWR VPB abpmos
X12 a_620_911# a_505_297# VGND VNB abnmos
X13 a_620_911# a_505_297# VGND VNB abnmos
X14 a_620_911# a_505_297# VGND VNB abnmos
X15 a_620_911# a_505_297# VGND VNB abnmos
X16 X a_1032_911# VPWR VPB abpmos
X17 X a_1032_911# VPWR VPB abpmos
X18 X a_1032_911# VPWR VPB abpmos
X19 a_424_82# A a_714_47# VNB abnmos
X20 a_424_82# A a_714_47# VNB abnmos
X21 LOWLVPWR A a_505_297# LOWLVPWR abpmos
X22 LOWLVPWR A a_505_297# LOWLVPWR abpmos
X23 LOWLVPWR A a_505_297# LOWLVPWR abpmos
X24 a_714_47# A a_424_82# VNB abnmos
X25 a_714_47# A a_424_82# VNB abnmos
X26 X a_1032_911# VPWR VPB abpmos
X27 X a_1032_911# VPWR VPB abpmos
X28 X a_1032_911# VPWR VPB abpmos
X29 a_1032_911# a_620_911# VPWR VPB abpmos
X30 a_1032_911# a_620_911# VPWR VPB abpmos
X31 a_424_82# a_1032_911# X VNB abnmos
X32 a_424_82# a_1032_911# X VNB abnmos
X33 a_620_911# a_505_297# VGND VNB abnmos
X34 a_620_911# a_505_297# VGND VNB abnmos
X35 X a_1032_911# a_424_82# VNB abnmos
X36 X a_1032_911# a_424_82# VNB abnmos
X37 a_620_911# a_505_297# VGND VNB abnmos
X38 a_620_911# a_505_297# VGND VNB abnmos
X39 a_424_82# A a_714_47# VNB abnmos
X40 a_424_82# A a_714_47# VNB abnmos
X41 a_714_47# A a_424_82# VNB abnmos
X42 a_714_47# A a_424_82# VNB abnmos
X43 a_1032_911# a_620_911# VGND VNB abnmos
X44 a_1032_911# a_620_911# VGND VNB abnmos
X45 a_620_911# a_714_47# VPWR VPB abpmos
X46 a_620_911# a_714_47# VPWR VPB abpmos
X47 a_424_82# A a_505_297# VNB abnmos
.ends LPFLOW_LSBUF_LH_ISOWELLD4B
